US09340635B2
Synthesis of t-Bac-protected 4,4′-diaminobenzil (2)
A Schlenk flask was thoroughly flame-dried under vacuum and then under nitrogen atmosphere (three cycles each). To this was added copper (I) iodide (4.14 g, 22 mmol), tribasic potassium phosphate (46.2 g, 220 mmol), and t-butyl carbamate (13.92 g, 119 mmol). These reagents were dried under vacuum and back-filled with nitrogen (three cycles). To this was added 4,4′-dibromobenzil, 1 (20 g, 54 mmol), N,N′-dimethylethylenediamine (3.82 g (4.7 mL), 43 mmol) and anhydrous THF (100 mL). The reaction flask was sealed under nitrogen and heated at 90° C. for 24 h. After bringing down to room temperature, the reaction mixture was passed through silica gel to remove the copper salts. The product was extracted with ethyl acetate and purified by column chromatography using 1:4 mixtures of ethyl acetate and hexane as eluant to obtain yellow crystalline solid. Yield: 17.5 g (73%). Mp. 207° C. 1H NMR (acetone-d6, 400 MHz): 1.50 (s, 18H), 7.78 (m, 4H), 7.89 (m, 4H), 8.98 (bs, 2H). 13C NMR (acetone-d6, 100 MHz): 194.5, 153.2, 146.9, 131.3, 128.0, 118.5, 81.1, 28.4. FT-IR (cm−1): ν 3332, 2925, 1682, 1598, 1509, 1455, 1414, 1368, 1313, 1221, 1169, 1144, 1050, 996, 914, 885, 830, 771. HRMS-FAB: mlz M+ calcd 440.1947. found 440.1938.

reactant | potassium phosphate | 220 mmol, 46.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | t-butyl carbamate | 119 mmol, 13.92 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | 4,4′-dibromobenzil | BrC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Br | C14H8Br2O2
reactant | N,N′-dimethylethylenediamine | 43 mmol, 4.7 mL, 3.82 g | CNCCNC | C4H12N2
catalyst | copper (I) iodide | 22 mmol, 4.14 g | [Cu]I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4,4′-diaminobenzil | NC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)N | C14H12N2O2
